US06844435B2
Sodium (3.35 g, 146 mmol) was slowly added to stirred MeOH (45 mL). Upon completion of gas evolution, 6-chloroanthranilic acid (5 g, 29 mmol) was added forming a suspension. This mixture was added to a separate flask containing a suspension of paraformaldehyde (1.22 g, 43.5 mmol) in MeOH (35 mL), and the resulting solution was stirred for 5 h at room temperature. Sodium borohydride (1.1 g, 29 mmol) was added and the mixture refluxed for 3 h. The cooled mixture was hydrolyzed with 1 M potassium hydroxide then neutralized to pH 3 using 2 M HCl. The precipitate was filtered to yield 2-chloro-6-methylamino benzoic acid (2.2 g, 41%).

reactant | Sodium | 146 mmol, 3.35 g | [Na] | Na
reactant | 6-chloroanthranilic acid | 29 mmol, 5 g | ClC=1C=CC=C(C1C(=O)O)N | C7H6ClNO2
reactant | paraformaldehyde | 43.5 mmol, 1.22 g | C=O | CH2O
reactant | Sodium borohydride | 29 mmol, 1.1 g | [BH4-].[Na+]
reactant | potassium hydroxide | 1 M | [OH-].[K+]
reactant | HCl | 2 M | Cl | ClH
solvent | MeOH | 35 mL | CO | CH4O
solvent | MeOH | 45 mL | CO | CH4O
product | 2-chloro-6-methylamino benzoic acid | 2.2 g, 41% | ClC1=C(C(=O)O)C(=CC=C1)NC | C8H8ClNO2
